US05212187
N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.7 g (2.3 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine and 0.85 g (2.2 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography (eluant: ethyl acetate) analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB-method): m/z (rel. int.[%])=602 ([M+H]+, 5), 230 (100); IR (KBr): 2165 cm-1 (C≡N). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: from 85° C. with decomposition.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine | 2.3 mmol, 0.7 g | ClC1=CC=C(C=C1)C(CCN(CCN)C)C1=NC=CC=C1 | C17H22ClN3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 2.2 mmol, 0.85 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | ClC1=CC=C(C=C1)C(CCN(C)CCNC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NC#N)C1=NC=CC=C1 | C34H44ClN7O
